US04631286
9-Benzylamino-3,4-dihydroacridin-1(2H)-one
In a biphasic solution consisting of 150 ml of dichloromethane and 100 ml of 50% aqueous NaOH were added 4.00 g of 9-amino-3,4-dihydroacridin-1(2H)-one, and 0.96 g of tetrabutylammonium hydrogensulfate catalyst. The mixture was stirred mechanically for 0.5 hour and thereafter 2.47 ml (1.1 eq) of benzyl bromide was added in one portion. After 4 hours of vigorous stirring, the reaction appeared complete based on thin layer chromatography analysis. The reaction mixture was poured into water/ice and the dichloromethane layer separated, dried over MgSO4 and evaporated to a solid. the solid was recrystallized three times from dichloromethane/hexanes to yield 2.35 g (41%) of product, melting point 162°-163° C.

reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 4.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | benzyl bromide | 2.47 ml, 1.1 eq | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium hydrogensulfate | 0.96 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 9-Benzylamino-3,4-dihydroacridin-1(2H)-one | 2.35 g, 41% | C(C1=CC=CC=C1)NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C20H18N2O
